US09326987B2
N-(2-(Methyloxy)-5-{1-(phenylsulfonyl)-4-[5-(tetrahydro-1,4-oxazepin-4(5H)-ylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide
6-Bromo-1-(phenylsulfonyl)-4-[5-(tetrahydro-1,4-oxazepin-4(5H)-ylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole (279 mg, 0.538 mmol) was dissolved in 1,4-dioxane (5 ml) and half of the resulting solution was charged to a reaction vessel. N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide (114 mg, 0.347 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (39.5 mg, 0.054 mmol), potassium phosphate tribasic (171.5 mg, 0.808 mmol) and water (0.25 ml) were added. The reaction mixture was heated at 100° C. for 20 mins. The mixture was passed through a 1 g silica SPE cartridge, washing with MeOH. The solvent was removed under a stream of nitrogen and the residue was partitioned between DCM (10 ml) and water (10 ml), separated with a hydrophobic frit and the solvent again removed under a stream of nitrogen. The residue was purified by preparative HPLC using the following method:

reactant | 6-Bromo-1-(phenylsulfonyl)-4-[5-(tetrahydro-1,4-oxazepin-4(5H)-ylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole | 0.538 mmol, 279 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1CCOCCC1 | C21H20BrN5O4S
reactant | N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide | 0.347 mmol, 114 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | potassium phosphate tribasic | 0.808 mmol, 171.5 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.25 ml | O | H2O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.054 mmol, 39.5 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-(2-(Methyloxy)-5-{1-(phenylsulfonyl)-4-[5-(tetrahydro-1,4-oxazepin-4(5H)-ylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide | COC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1CCOCCC1 | C28H29N7O7S2
